US04689345
Alpha and beta isomers of 7-methoxy-2-(5-methoxyhept-1-y)bicyclo [3.3.0]octane {octahydro-5-methoxy-1-(5-methoxyheptyl)pentalene}
The starting material, 2-(5-methoxyhept-1-yl)bicyclo[3.3.0]7 octanol {octahydro-4-(5-methoxyheptyl)-2-pentalenol} (1.0 g, 3.9 mmoles) is added to a reaction vessel containing sodium iodide (0.12 g, 4.9 mmoles) and tetrahydrofuran (12 ml). The solution is stirred while methyl iodide (0.84 g, 5.9 mmoles) is rapidly added. The reaction is heated in a 50° C. water bath for 4 hours. The water bath is removed and the reaction neutralized with the addition of water (5 ml). The organic phase is separated and the aqueous phase extracted with ether (2×50 ml). The ether extracts are combined and washed with brine (50 ml). The solution is dried over anhydrous magnesium sulfate and the solvent removed under vacuum leaving a clear yellow oil. The product is then kugelrohred under reduced pressure leaving a pale yellow oil (0.8 g, 3.1 mmoles).

reactant | octahydro-4-(5-methoxyheptyl)-2-pentalenol | COC(CCCCC1C2CC(CC2CC1)O)CC | C16H30O2
reactant | sodium iodide | 4.9 mmoles, 0.12 g | [I-].[Na+]
reactant | methyl iodide | 5.9 mmoles, 0.84 g | CI | CH3I
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | 7-methoxy-2-(5-methoxyhept-1-y)bicyclo [3.3.0]octane | 3.1 mmoles, 0.8 g | COC1CC2CCC(C2C1)CCCCC(CC)OC | C17H32O2
